US06908916B2
[1-(3-Fluoro-benzyl)-1H-indazol-5-yl]-{5-[4-(1H-tetrazol-5-yl)-piperdin-1-ylmethyl]-pyrrolo[2,1-f][1,2,4]triazin-4-yl}-amine
A mixture of 1-{4-[1-(3-fluoro-benzyl)-1H-indazol-5-ylamino]-pyrrolo[2,1-f][1,2,4]triazin-5-ylmethyl }-piperidine-4-carbonitrile (145 mg, 0.3 mmole), sodium azide (59 mg, 3 equiv.) and ammonium chloride (48 mg, 3 equiv.) in DMF (0.6 mL) in a sealed vial was stirred at 100° C. for 20 h. The reaction mixture was cooled to RT, diluted with DCM, washed with water, and dried (Na2SO4). Removal the solvent followed by radial chromatography (2 mm silica gel plate, gradient elution with DCM containing 2 to 7% 2 M NH3 in MeOH) afforded the title compound as a solid (38 mg, 24%); MS: 524 (M+H+); HPLC Ret Time: 1.13 min (Xterra 3.0×50 mm S7 C18 column, 2 min gradient, 5 ml/min).

reactant | 1-{4-[1-(3-fluoro-benzyl)-1H-indazol-5-ylamino]-pyrrolo[2,1-f][1,2,4]triazin-5-ylmethyl }-piperidine-4-carbonitrile | 0.3 mmole, 145 mg | FC=1C=C(CN2N=CC3=CC(=CC=C23)NC2=NC=NN3C2=C(C=C3)CN3CCC(CC3)C#N)C=CC1 | C27H25FN8
reactant | sodium azide | 59 mg, 3 equiv. | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 48 mg, 3 equiv. | [Cl-].[NH4+]
solvent | DMF | 0.6 mL | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | [1-(3-Fluoro-benzyl)-1H-indazol-5-yl]-{5-[4-(1H-tetrazol-5-yl)-piperdin-1-ylmethyl]-pyrrolo[2,1-f][1,2,4]triazin-4-yl}-amine | 38 mg, 24% | FC=1C=C(CN2N=CC3=CC(=CC=C23)NC2=NC=NN3C2=C(C=C3)CN3CCC(CC3)C3=NN=NN3)C=CC1 | C27H26FN11
